US05470991
a) 2,5-Dimethyl-3-thioacetylfuran
5.61 g of 5-hydroxyhex-3-yn-2-one [prepared according to A. F. Thomas et al., Tet. Let. 27, 505, (1986)] in 50 ml of methylene chloride are added dropwise while stirring within 15 min. to a mixture of 11.42 g of thioacetic acid in 50 ml of methylene chloride and 100 ml of 2N sulphuric acid. After leaving to stand at room temperature for 2 hours the mixture is heated to 40° C. and stirred at 40° C. for a further 4 hrs. The reaction mixture is poured into 100 ml of H2O and extracted 2× with 100 ml of methylene chloride. The organic phases, dried over MgSO4, are concentrated and fractionally distilled in a high vacuum (65° C./0.2 mbar). There are obtained 5.7 g (67% of theory) of a yellow liquid.

reactant | 5-hydroxyhex-3-yn-2-one | 5.61 g | OC(C#CC(C)=O)C | C6H8O2
reactant | thioacetic acid | 11.42 g | C(C)(=S)O | C2H4OS
reactant | H2O | 100 ml | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | sulphuric acid | 2N, 100 ml | S(O)(O)(=O)=O | H2O4S
product | 2,5-Dimethyl-3-thioacetylfuran | CC=1OC(=CC1C(C)=S)C | C8H10OS
